US04616014
A solution of ethyl chloroformate (1.628 g) in methylene chloride (6 ml) was added dropwise to a stirred solution of acetoxyacetic acid (1.77 g) and triethylamine (1.515 g) in methylene chloride (30 ml) under ice cooling in 3 minutes, and the stirring was continued for 10 minutes under ice cooling. To the mixture was added quickly a solution of 3-hydrazino-5-methyl-6-phenyl-1,2,4-triazine (2.01 g) in chloroform (28 ml) with stirring under ice cooling, and then the stirring was continued for 20 minutes. The solution was washed with water, dried over sodium sulfate, and concentrated. The resultant residue was dissolved in methanol (50 ml), and a solution of sodium hydroxide (0.8 g) in water (10 ml) was added thereto under ice cooling. After stirring for 0.5 hours, the solution was evaporated under reduced pressure and the residue was dissolved in water. To the solution was added dry ice and then the solution was concentrated under reduced pressure. The resultant precipitates were collected by filtration, washed with cold water and dried. On the other hand, the filtrate was salted out and extracted with ethyl acetate. The extract was dried over magnesium sulfate and evaporated to give a solid residue. The residue was combined with the substance obtained above, and recrystallized from a mixture of ethyl acetate and ethanol to give colorless crystals of 3-(2-hydroxyacetylhydrazino)-5-methyl-6-phenyl-1,2,4-triazine (1.852 g).

reactant | ethyl chloroformate | 1.628 g | ClC(=O)OCC | C3H5ClO2
reactant | acetoxyacetic acid | 1.77 g | C(C)(=O)OCC(=O)O | C4H6O4
reactant | triethylamine | 1.515 g | C(C)N(CC)CC | C6H15N
reactant | 3-hydrazino-5-methyl-6-phenyl-1,2,4-triazine | 2.01 g | N(N)C=1N=NC(=C(N1)C)C1=CC=CC=C1 | C10H11N5
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | 28 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-hydroxyacetylhydrazino)-5-methyl-6-phenyl-1,2,4-triazine | 1.852 g | OCC(=O)NNC=1N=NC(=C(N1)C)C1=CC=CC=C1 | C12H13N5O2
